US09102673B2
4-Tert-butoxyphenol (200 mg, 1.203 mmole) and PPh3 (410 mg, 1.564 mmole) were combined in toluene (5 mL). To this was added tetrahydro-2H-pyran-4-ol (0.149 mL, 1.564 mmole). DIAD (0.304 mL, 1.564 mmole) was added dropwise at RT. After stirring overnight the mixture was concentrated. Flash column chromatography (Biotage-SNAP-25 g SiO2, 10% EtOAc/hexanes) gave 4-(4-tert-butoxyphenoxy)tetrahydro-2H-pyran (257 mg, 85%) as a clear oil. 1H NMR (400 MHz, CDCl3): 06.90 (d, J=8.9 Hz, 2 H); 6.83-6.79 (m, 2 H); 4.39 (m, 1 H); 4.03-3.95 (m, 2 H); 3.56 (m, 2 H); 2.04-1.96 (m, 2 H); 1.83-1.72 (m, 2 H); 1.30 (s, 9 H).

reactant | 4-Tert-butoxyphenol | 1.203 mmole, 200 mg | C(C)(C)(C)OC1=CC=C(C=C1)O | C10H14O2
reactant | PPh3 | 1.564 mmole, 410 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | tetrahydro-2H-pyran-4-ol | 1.564 mmole, 0.149 mL | O1CCC(CC1)O | C5H10O2
reactant | DIAD | 1.564 mmole, 0.304 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-tert-butoxyphenoxy)tetrahydro-2H-pyran | 257 mg, 85% | C(C)(C)(C)OC1=CC=C(OC2CCOCC2)C=C1 | C15H22O3
